US07579469B2
Synthesis of 1-{4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-2,6-dimethylpiperazin-1-yl}ethanone
To a solution of 2-(3,5-dimethylpiperazin-1-ylmethyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol (18 mg) in methylene chloride (1 mL) was added pyridine (55.8 μL) followed by acetic anhydride (43.4 μL). The resulting mixture was stirred overnight, quenched with saturated aqueous sodium bicarbonate solution and extracted twice with methylene chloride. The combined organic phases were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography with silica gel (eluted with 50% ethyl acetate-hexanes) to give the title compound as a clear oil (20 mg).

reactant | 2-(3,5-dimethylpiperazin-1-ylmethyl)-1,1,1-trifluoro-4-(5-fluoro-2-methoxyphenyl)-4-methylpentan-2-ol | 18 mg | CC1CN(CC(N1)C)CC(C(F)(F)F)(CC(C)(C)C1=C(C=CC(=C1)F)OC)O | C20H30F4N2O2
reactant | pyridine | 55.8 μL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 43.4 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]-2,6-dimethylpiperazin-1-yl}ethanone | 20 mg | FC=1C=CC(=C(C1)C(CC(CN1CC(N(C(C1)C)C(C)=O)C)(C(F)(F)F)O)(C)C)OC | C22H32F4N2O3
